US05045228
Then 5.0 g of this β-hydroxynonanoic acid was mixed with 20 ml of anhydrous pyridine and 3.2 ml of acetic anhydride under ice cooling, and the mixture was stirred at room temperature overnight and cooled with ice. Then, 5 ml of distilled water was added to the mixture, the mixture was dissolved in 1N hydrochloric acid, and the solution was extracted with ether. The ether layer was washed with a saturated aqueous sodium chloride solution and dehydrated on magnesium sulfate. Then, the ether was evaporated and the residue was concentrated to obtain 5.4 g of β-acetoxynonanoic acid.

reactant | β-hydroxynonanoic acid | 5.0 g | OC(CC(=O)O)CCCCCC | C9H18O3
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 3.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 5 ml | O | H2O
solvent | hydrochloric acid | 1N | Cl | ClH
product | β-acetoxynonanoic acid | 5.4 g | C(C)(=O)OC(CC(=O)O)CCCCCC | C11H20O4
